US05026702
2-(6-Chloro-pyridin-2-yl)-morpholine
1 g (0.0047 mol) of 2-(6-chloro-pyridin-2-yl)-morpholin-5-one are dissolved in 20 ml of absolute tetrahydrofuran, added with stirring at ambient temperature to 5 ml of a 1 molar solution of borane in tetrahydrofuran and the reaction solution is stirred for 60 minutes. Then sufficient borane/tetrahydrofuran solution is added in batches until all the starting material has reacted, according to thin layer chromatography. The solvent is then drawn off, the residue is stirred in 20 ml of methanol for 18 hours and then evaporated down. This residue is taken up in 20 ml of 2N hydrochloric acid and stirred at 50° C. for 2 hours. The acid solution is cooled in an ice bath, made alkaline with ammonia solution and extracted with methylene chloride. The organic phase is dried over sodium sulphate, concentrated by evaporation and the residue is purified over a silica gel column with methanol as eluant.

reactant | 2-(6-chloro-pyridin-2-yl)-morpholin-5-one | 0.0047 mol, 1 g | ClC1=CC=CC(=N1)C1CNC(CO1)=O | C9H9ClN2O2
reactant | borane | B | BH3
reactant | borane tetrahydrofuran | B.O1CCCC1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | 2-(6-Chloro-pyridin-2-yl)-morpholine | ClC1=CC=CC(=N1)C1CNCCO1 | C9H11ClN2O
